US04305885
25 g (0.088 mol) of perfluorobutanesulphinic acid were initially introduced into a 100 ml three-necked flask and cooled to 0° C. Freshly distilled isoprene was then added dropwise, in excess, during which a dropping rate of 1 drop per minute had to be maintained. After the dropwise addition, the solution was immediately poured into ice-water neutralized with NaHCO3 and extracted with ether. After drying with MgSO4, the ether extract was filtered, the ether was stripped off from the filtrate in a rotary evaporator and the residue was distilled. Perfluorobutyl 3-methyl-2-butenyl sulphone of boiling point 41° C./0.1 mm Hg was obtained as a yellowish-tinged liquid in a yield of 60 to 70% of theory.

reactant | perfluorobutanesulphinic acid | 0.088 mol, 25 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)O)F | C4HF9O2S
reactant | isoprene | C=CC(C)=C | C5H8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Perfluorobutyl 3-methyl-2-butenyl sulphone | yield of 60 to 70% | CC(=CCS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C | C9H9F9O2S
